US08710080B2
1. (S)-2-Amino-N-[(4-fluoro-3-{1-[1-(2-methoxy-ethyl)-4-(morpholine-4-carbonyl)-1H-indole-3-carbonyl]-piperidin-4-yl}-benzylcarbamoyl)-methyl]-3-methyl-butyramide hydrochloride
4N HCl in dioxane (2.5 mL) was added to ((S)-1-{[(4-fluoro-3-{1-[1-(2-methoxy-ethyl)-4-(morpholine-4-carbonyl)-1H-indole-3-carbonyl]-piperidin-4-yl}-benzylcarbamoyl)-methyl]-carbamoyl}-2-methyl-propyl)-carbamic acid tert-butyl ester (0.94 mg, 0.12 mmol). The resulting colorless solution was stirred under N2 at rt overnight. The reaction mixture was concentrated in vacuo and the residue was triturated with Et2O (10 mL). The ethereal layer was removed and the pale yellow solid washed with Et2O (3×10 mL). The solid was dried under vacuum to afford the product (85 mg, 99%). 1H NMR (300 MHz, DMSO-d6) δ 8.74-8.71 (m, 1H), 8.54-8.51 (m, 1H), 8.20 (br s, 2H), 7.7.63-7.60 (m, 1H), 7.44-7.36 (m, 1H), 7.32-7.21 (m, 1H), 7.13-7.05 (m, 1H), 7.01-6.98 (d, 1H), 4.39 (t, 2H), 4.25 (d, 2H), 4.21-4.15 (m, 1H), 3.88-3.83 (m, 2H), 3.79-3.77 (m, 1H), 3.69 (t, 2H), 3.62 (br s, 2H), 3.24 (s, 3H), 3.08-2.88 (m, 2H), 2.10-2.03 (m, 1H), 1.85-1.60 (m, 6H), 1.11-1.07 (m, 1H), 0.94 (d, 6H); MS m/z: [M+H]+=679.

reactant | HCl | 4N | Cl | ClH
reactant | ((S)-1-{[(4-fluoro-3-{1-[1-(2-methoxy-ethyl)-4-(morpholine-4-carbonyl)-1H-indole-3-carbonyl]-piperidin-4-yl}-benzylcarbamoyl)-methyl]-carbamoyl}-2-methyl-propyl)-carbamic acid tert-butyl ester | 0.12 mmol, 0.94 mg | C(C)(C)(C)OC(N[C@@H](C(C)C)C(NCC(NCC1=CC(=C(C=C1)F)C1CCN(CC1)C(=O)C1=CN(C2=CC=CC(=C12)C(=O)N1CCOCC1)CCOC)=O)=O)=O | C41H55FN6O8
solvent | dioxane | 2.5 mL | O1CCOCC1 | C4H8O2
product | (S)-2-Amino-N-[(4-fluoro-3-{1-[1-(2-methoxy-ethyl)-4-(morpholine-4-carbonyl)-1H-indole-3-carbonyl]-piperidin-4-yl}-benzylcarbamoyl)-methyl]-3-methyl-butyramide hydrochloride | 85 mg, 99% | Cl.N[C@H](C(=O)NCC(NCC1=CC(=C(C=C1)F)C1CCN(CC1)C(=O)C1=CN(C2=CC=CC(=C12)C(=O)N1CCOCC1)CCOC)=O)C(C)C | InChI=1S/C36H47FN6O6.ClH/c1-23(2)33(38)34(45)40-21-31(44)39-20-24-7-8-29(37)27(19-24)25-9-11-41(12-10-25)36(47)28-22-43(13-16-48-3)30-6-4-5-26(32(28)30)35(46)42-14-17-49-18-15-42;/h4-8,19,22-23,25,33H,9-18,20-21,38H2,1-3H3,(H,39,44)(H,40,45);1H/t33-;/m0./s1
